US04906643
A mixture of 3.78 parts of cis-4-amino-N-[1-(4-aminobutyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide, 1.66 parts of 2-chloro-3-pyridinecarbonitrile, 1.58 parts of sodium carbonate and 90 parts of N,N-dimethylformamide was stirred for 24 hours at 70° C. The reaction mixture was evaporated. The residue was taken up in water and the product was extracted twice with dichloromethane. The combined extracts were washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The first fraction was collected and the eluent was evaporated. The residue was taken up in acetonitrile. The product was filtered off and dried, yielding 1.12 parts (23%) of cis-4-amino-5-chloro-N-[1-[4-[(3-cyano-2-pyridinyl)amino]butyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide monohydrate; mp. 103.4° C. (compound 40).

reactant | cis-4-amino-N-[1-(4-aminobutyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCCN)OC)C=C1Cl)OC | C18H29ClN4O3
reactant | 2-chloro-3-pyridinecarbonitrile | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | cis-4-amino-5-chloro-N-[1-[4-[(3-cyano-2-pyridinyl)amino]butyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide monohydrate | 23% | O.NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCCNC2=NC=CC=C2C#N)OC)C=C1Cl)OC | InChI=1S/C24H31ClN6O3.H2O/c1-33-21-13-19(27)18(25)12-17(21)24(32)30-20-7-11-31(15-22(20)34-2)10-4-3-8-28-23-16(14-26)6-5-9-29-23;/h5-6,9,12-13,20,22H,3-4,7-8,10-11,15,27H2,1-2H3,(H,28,29)(H,30,32);1H2/t20-,22+;/m0./s1
